* Z:\home\markus\uni\ESD4_project\class_ab_amplifier\classABThreeStage.asc
Q_W2 N014 N014 P001 0 BC547B
Q_W1 N013 N014 P002 0 BC547B
R_WE1 P002 Vcc- 200
R_WE2 P001 Vcc- 200
Q_W3 ops_pnp N013 N014 0 BC547B
R_W N013 0 3k
R_VBE2 N005 ops_pnp 1k
R_VBE1 ops_npn N005 4k
Q_VBE ops_npn N005 ops_pnp 0 BC547B
R_load out 0 8
V1 Vcc- 0 -30
V2 Vcc+ 0 30
V3 N017 0 AC 1
XU1 Vcc+ ops_npn N003 BDX33C
XU2 Vcc- ops_pnp N011 BDX34C
R1 N003 out 0.5
R2 out N011 0.5
Q1 N004 N007 N010 0 BC547B
Q2 N001 N008 N010 0 BC547B
Q3 N004 N001 Vcc+ 0 BC557B
Q4 N001 N001 Vcc+ 0 BC557B
Q5 ops_npn N004 N002 0 BC557B
R3 out N008 12.4k
R4 N008 N018 1k
C1 N018 0 16.5µ
R5 N004 N009 150
C2 ops_npn N009 220p
R6 Vcc+ N002 50
V4 in 0 SINE(0 1 1k) AC 1
Q6 N010 N012 N016 0 BC547B
Q7 N012 N012 N015 0 BC547B
R7 N012 0 10k
R8 N015 Vcc- 5k
R9 N016 Vcc- 5k
C3 N007 N006 3.3µ
R10 N007 0 120k
R11 N006 in 1k
.model NPN NPN
.model PNP PNP
.lib C:\users\markus\Documents\LTspiceXVII\lib\cmp\standard.bjt
;.ac dec 0.005 1 100k
* VBE-Multiplier
* Feedback Network
* Voltage Amplification Stage (VAS)
* Input Stage
* Output Stage
.tran 5m
.lib bdx33c.lib
.lib bdx34c.lib
.backanno
.end
